US05804585
C. N-(4-chloro-3-methyl-5-isoxazolyl)-2-(2,6-dimethoxybenzyl)thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(D) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(2,6-dimethoxybenzyl)thieno[2,3-b]pyridine-3-sulfonamide (0.11 g, 0.19 mmoles), methanol (5 ml) and 4N HCl (1 ml). Recrystallization from EtOAc/hexanes provided 35 mg (39%) of the title compound as a white precipitate, m.p. 66°-71° C.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(2,6-dimethoxybenzyl)thieno[2,3-b]pyridine-3-sulfonamide | 0.19 mmoles, 0.11 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=CC=C2OC)OC)COCCOC)C | C24H26ClN3O7S2
reactant | HCl | 4N, 1 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-(2,6-dimethoxybenzyl)thieno[2,3-b]pyridine-3-sulfonamide | 35 mg, 39% | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=CC=C2OC)OC)C | C20H18ClN3O5S2
